US07183276B2
To a mixed solution of 1-(3-chlorophenyl)-2-hydroxyethanone (21.8 g), potassium cyanide (20.8 g) and 2-propanol (100 mL) was added acetic acid (18 mL) at room temperature. After stirring for 30 min, water was added, and the precipitated crystals were collected by filtration and recrystallized from methanol-diisopropyl ether to give 4-(3-chlorophenyl)oxazol-2(3H)-one (6.7 g, yield 41%) as a solid.

reactant | 1-(3-chlorophenyl)-2-hydroxyethanone | 21.8 g | ClC=1C=C(C=CC1)C(CO)=O | C8H7ClO2
reactant | potassium cyanide | 20.8 g | [C-]#N.[K+]
reactant | 2-propanol | 100 mL | CC(C)O | C3H8O
reactant | acetic acid | 18 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-(3-chlorophenyl)oxazol-2(3H)-one | 6.7 g, yield 41% | ClC=1C=C(C=CC1)C=1NC(OC1)=O | C9H6ClNO2
